US04136256
Preparation of N-[4-(hexadecylamino)benzoyl]-trifluoromethanesulfonamide
A solution of 1.25 g. of trifluoromethanesulfonamide in 35 ml. of pyridine was treated with 3.5 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride in methylene chloride at 10°-15° C. and then stirred under reflux for 3 hours. Evaporation afforded a gum which was stirred with 150 ml. of H2O and extracted with three 50 ml. portions of CHCl3. The extracts were combined, dried (MgsO4), and evaporated to yield a white solid. Crystallization from ether-acetone gave 2.0 g. of product, melting point 172°-174° C.

reactant | trifluoromethanesulfonamide | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-(hexadecylamino)benzoyl]-trifluoromethanesulfonamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C(F)(F)F)C=C1 | C24H39F3N2O3S
